US07342115B2
Isopropylmagnesium chloride (18 mL of 2 M in Et2O, 35 mmol) is added to a solution of 2-bromo-6-fluoro-benzaldehyde (6.0 g, 30 mmol) in THF (40 mL) at −78° C. and the mixture is stirred for 1 hour at 0° C. The mixture is poured into saturated NH4Cl and extracted with EtOAc. The resulting crude alcohol is oxidized directly by Swern oxidation to yield 1-(2-bromo-6-fluoro-phenyl)-2-methyl-propan-1-one. 1H NMR (CDCl3) 7.38 (d, 1H), 7.22 (m, 1H), 7.03 (t, 1H), 3.10 (m, 1H), 1.11 (d, 6H).

reactant | Isopropylmagnesium chloride | 35 mmol, 2 M, 18 mL | C(C)(C)[Mg]Cl
reactant | 2-bromo-6-fluoro-benzaldehyde | 30 mmol, 6.0 g | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(2-bromo-6-fluoro-phenyl)-2-methyl-propan-1-one | BrC1=C(C(=CC=C1)F)C(C(C)C)=O | C10H10BrFO
